US07572808B2
A. Preparation of 4-(7-(4-chlorophenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)benzaldehyde
To a stirring solution of 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (100 mg, 0.21 mmol) in n-butanol (1.6 mL) at room temperature under argon was added 4-formylphenylboronic acid (40.4 mg, 0.27 mmol), Pd2(dba)3 (7.6 mg, 0.008 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (13.6 mg, 0.03 mmol) and K3PO4 (88.1 mg, 0.41 mmol). The resulting suspension was purged of oxygen by bubbling with argon for 15 min, sealed in a vial under argon, heated at 110° C. for 5 h, and then cooled to room temperature. The reaction mixture was diluted with EtOAc and washed once with water. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with EtOAc/hexanes). Pooling of the desired fractions provided the title compound as a yellow solid, 38.8 mg, 36%. HPLC/MS: retention time=2.73 min, [M+H]+=509.

reactant | 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.21 mmol, 100 mg | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C19H11BrClF3N4O
reactant | 4-formylphenylboronic acid | 0.27 mmol, 40.4 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.03 mmol, 13.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 0.41 mmol, 88.1 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | n-butanol | 1.6 mL | C(CCC)O | C4H10O
catalyst | Pd2(dba)3 | 0.008 mmol, 7.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(7-(4-chlorophenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-8-yl)benzaldehyde | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=O)C=C2 | C26H16ClF3N4O2
